US08012966B2
A stirred solution of dichloromethane (5.5 ml) and N,N-dimethylformamide (0.2 ml) was added dropwise slowly with phosphorus oxychloride (0.184 ml, 2 mmol) under an argon atmosphere while maintaining the temperature at −10° C.˜0° C. Upon completion of the addition, the mixture was stirred for 15 minutes at −10° C., added with the solution of 2-(2-tert-butoxycarbonylamino-ethyl)-4-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester (0.36 g, 1 mmol) in dichloromethane (2 ml) while maintaining the temperature at −10° C.˜0° C. for 1 hour. Then the mixture was stirred for another 2.5 hours at room temperature, added with cold water, adjusted to pH 11˜12 with 10% aqueous sodium hydroxide solution, extracted with ethyl acetate (50 ml×6), washed with brine, dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 2-(2-tert-butoxycarbonylamino-ethyl)-5-formyl-4-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester (309 mg, 81.9%) as a red oil.

reactant | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 2 mmol, 0.184 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-tert-butoxycarbonylamino-ethyl)-4-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | 1 mmol, 0.36 g | C(C)OC(=O)C1=C(NC=C1C1=CC=CC=C1)CCNC(=O)OC(C)(C)C | C20H26N2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5.5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-(2-tert-butoxycarbonylamino-ethyl)-5-formyl-4-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | 309 mg, 81.9% | C(C)OC(=O)C1=C(NC(=C1C1=CC=CC=C1)C=O)CCNC(=O)OC(C)(C)C | C21H26N2O5
